US06727264B1
2-METHYL-N-(3-{1-[4-(1H-1,2,4-TRIAZOL-1-YL)BENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-(1H-1,2,4-triazol-1-yl)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 404.1 (M+H)+.

reactant | 4-(1H-1,2,4-triazol-1-yl)benzaldehyde | N1(N=CN=C1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[4-(1H-1,2,4-TRIAZOL-1-YL)BENZYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CC=C(C=C1)N1N=CN=C1)C | C24H29N5O
